US03989681
Preparation of 1,3-dihydro-5-(2-fluorophenyl)-7-hydroxyamino-1-methyl-2H-1,4-benzodiazepin-2-one
A mixture of 16 g. (0.05 mol) of 1,3-dihydro-5-(2-fluorophenyl)-1-methyl-7-nitro-2H-1,4-benzodiazepin-2-one, 500 ml. of tetrahydrofuran, 250 ml. of methanol, 68 g. of sodium acetate trihydrate and 56 g. of stannous chloride dihydrate was stirred under nitrogen for 6 hours. 25 ml. of concentrated ammonia was added and the inorganic salts were removed by filtration through celite. The filtrate was washed well with 2 l. of tetrahydrofuran. The filtrate was evaporated and the solid residue was dissolved in ethanol/tetrahydrofuran. The solution was again filtered with celite and concentrated. The separated crystals were collected to leave light yellow product. For analysis it was recrystallized from ethanol/tetrahydrofuran, m.p. 228°-230° dec.

reactant | 1,3-dihydro-5-(2-fluorophenyl)-1-methyl-7-nitro-2H-1,4-benzodiazepin-2-one | 0.05 mol | FC1=C(C=CC=C1)C1=NCC(N(C2=C1C=C(C=C2)[N+](=O)[O-])C)=O | C16H12FN3O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium acetate trihydrate | O.O.O.C(C)(=O)[O-].[Na+]
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 1,3-dihydro-5-(2-fluorophenyl)-7-hydroxyamino-1-methyl-2H-1,4-benzodiazepin-2-one | FC1=C(C=CC=C1)C1=NCC(N(C2=C1C=C(C=C2)NO)C)=O | C16H14FN3O2
